US09034866B2
Synthesis of ethyl 9-bromo-4-fluoro-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate
The title compound was prepared from ethyl 9-bromo-4-hydroxy-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate and DAST as described in the synthesis of ethyl 9-bromo-4,4-difluoro-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate.

reactant | ethyl 9-bromo-4-hydroxy-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | BrC1=CC2=C(OCC(C3=C2N=C(S3)C(=O)OCC)(C)O)C=C1 | C15H14BrNO4S
reactant | DAST | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | ethyl 9-bromo-4,4-difluoro-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | BrC1=CC2=C(OCC(C3=C2N=C(S3)C(=O)OCC)(F)F)C=C1 | C14H10BrF2NO3S
product | ethyl 9-bromo-4-fluoro-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | BrC1=CC2=C(OCC(C3=C2N=C(S3)C(=O)OCC)(C)F)C=C1 | C15H13BrFNO3S
